US05175157
a) N-Benzyl-2-pyrrolidone
14.4 g (0.33 mol) of 50% sodium hydride dispersion in oil are added in batches to 25.5 g (0.3 mol) of 2-pyrrolidone in 300 ml of absolute dimethylsulphoxide. The mixture is then stirred for 5 hours at 40° to 50° C. and at 25°-30° C. 56.4 g=39.2 ml (0.33 mol) of benzyl bromide are added dropwize. After stirring for 10 hours at ambient temperature the reaction mixture is dissolved in 500 ml of ethyl acetate and extracted several times with water. The organic phase is separated off, dried over magnesium sulphate and the solvent is eliminated in vacuo. The residue obtained is purified over 900 g of aluminium oxide (neutral, activity II) with methylene chloride and 0.1% ethanol. Yield: 35.6 g (67.7% of theory), Rf value: 0.77 (aluminium oxide, neutral, eluant: 5% ethanol in methylene chloride).

reactant | sodium hydride | 0.33 mol, 14.4 g | [H-].[Na+]
reactant | 2-pyrrolidone | 0.3 mol, 25.5 g | N1C(CCC1)=O | C4H7NO
reactant | benzyl bromide | 0.33 mol, 39.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylsulphoxide | 300 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | N-Benzyl-2-pyrrolidone | C(C1=CC=CC=C1)N1C(CCC1)=O | C11H13NO
